US07872028B2
To a solution of (R)-tert-butyl 3-((S)-1-(2-(2-ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (1.50 g, 3.01 mmol) in MeCN (50 mL), 2 N aq. HCl (50 mL) was added slowly at rt. The resulting solution was stirred at room temperature overnight, then basified to pH=10 with 10 N aq NaOH aq, and MeCN was removed under vacuum. The aqueous residue was extracted with CH2Cl2 (4×10 mL). The combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed under vacuum to give (S)-1-(2-(2-ethylphenoxy)phenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (1.16 g, 97%) as a free amine. The crude product was used for next step without purification; MS m/z 398 (M+H+).

reactant | (R)-tert-butyl 3-((S)-1-(2-(2-ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 3.01 mmol, 1.50 g | C(C)C1=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C1 | C30H43NO5
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | MeCN | 50 mL | CC#N | C2H3N
solvent | HCl | 2 N, 50 mL | Cl | ClH
product | (S)-1-(2-(2-ethylphenoxy)phenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 1.16 g, 97% | C(C)C1=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CNCCC2)C=CC=C1 | C25H35NO3
